* ============================================================
* XOR v2 Neural Network Mixed-Signal Co-Simulation
* d_cosim: xor_v2_cosim_top (controller + encoder + sae_control)
* Analog: RRAM 3x5 + 5x2 + 7x WL + 7x SA + 7x BL WD
*
* Architecture: 3-input / 5-hidden / 2-output XOR
*   Phase 0: Array 1 (3x5) -> 5 SAs -> h[4:0]
*   Phase 1: Array 2 (5x2) -> 2 SAs -> z[1:0] = XOR
*
* All SAs: single-ended (BL vs VREF)
* SA connection: INP=BL, INN=VREF  (INP<INN → Q=1 = threshold met)
*
* Test: all 4 XOR combinations
*   t=100ns   A=0,B=0 -> expect 0
*   t=2000ns  A=0,B=1 -> expect 1
*   t=4000ns  A=1,B=0 -> expect 1
*   t=6000ns  A=1,B=1 -> expect 0
* ============================================================
.title XOR_V2_COSIM

** --------------------------------------------------------
** Sky130 PDK device models
** --------------------------------------------------------
.lib /home/hsm/pdk_matched/share/pdk/sky130B/libs.tech/ngspice/sky130.lib.spice tt

** --------------------------------------------------------
** RRAM cell model: fixed resistor for READ-only inference
** (OSDI model causes read-disturb → resistance drift between tests)
** LRS (Tfilament_0=4.5nm): R=7kΩ, HRS (Tfilament_0=3.5nm): R=200kΩ
** Calibrated from Test 1 BL discharge: 1 LRS → BL≈1.42V @ 40ns, C_BL=20pF
** --------------------------------------------------------
.subckt rram_lrs TE BE
R1 TE BE 7k
.ends rram_lrs
.subckt rram_hrs TE BE
R1 TE BE 200k
.ends rram_hrs

** --------------------------------------------------------
** WL Driver (layout-extracted, 8 transistors)
** --------------------------------------------------------
.subckt wl_driver IN OUT VDD VWL VSS
X0 OUT a_423_138# VSS VSS sky130_fd_pr__nfet_g5v0d10v5 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
X1 a_423_138# IN VSS VSS sky130_fd_pr__nfet_g5v0d10v5 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
X2 a_342_589# a_57_213# VSS VSS sky130_fd_pr__nfet_g5v0d10v5 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
X3 a_57_213# IN VDD VDD sky130_fd_pr__pfet_01v8 ad=0.27 pd=2.54 as=0.27 ps=2.54 w=1 l=0.15
X4 OUT a_423_138# VWL VWL sky130_fd_pr__pfet_g5v0d10v5 ad=1.16 pd=8.58 as=1.16 ps=8.58 w=4 l=0.5
X5 a_57_213# IN VSS VSS sky130_fd_pr__nfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
X6 a_423_138# a_342_589# VWL VWL sky130_fd_pr__pfet_g5v0d10v5 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.5
X7 a_342_589# a_423_138# VWL VWL sky130_fd_pr__pfet_g5v0d10v5 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.5
.ends wl_driver

** --------------------------------------------------------
** Sense Amplifier (StrongARM, 10 transistors)
** --------------------------------------------------------
.subckt sense_amp SAE INP INN Q QB VDD VSS
X0 Q SAE VDD VDD sky130_fd_pr__pfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
X1 QB Q VDD VDD sky130_fd_pr__pfet_01v8 ad=0.27 pd=2.54 as=0.27 ps=2.54 w=1 l=0.15
X2 a_15_458# INP a_15_128# VSS sky130_fd_pr__nfet_01v8 ad=0.54 pd=4.54 as=0.54 ps=4.54 w=2 l=0.15
X3 QB SAE Q VDD sky130_fd_pr__pfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
X4 QB SAE VDD VDD sky130_fd_pr__pfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
X5 Q QB a_15_458# VSS sky130_fd_pr__nfet_01v8 ad=0.27 pd=2.54 as=0.27 ps=2.54 w=1 l=0.15
X6 a_15_128# SAE VSS VSS sky130_fd_pr__nfet_01v8 ad=0.54 pd=4.54 as=0.54 ps=4.54 w=2 l=0.15
X7 a_273_458# INN a_15_128# VSS sky130_fd_pr__nfet_01v8 ad=0.54 pd=4.54 as=0.54 ps=4.54 w=2 l=0.15
X8 Q QB VDD VDD sky130_fd_pr__pfet_01v8 ad=0.27 pd=2.54 as=0.27 ps=2.54 w=1 l=0.15
X9 QB Q a_273_458# VSS sky130_fd_pr__nfet_01v8 ad=0.27 pd=2.54 as=0.27 ps=2.54 w=1 l=0.15
.ends sense_amp

** --------------------------------------------------------
** BL Write Driver (tri-state, 8 transistors)
** --------------------------------------------------------
.subckt bl_write_driver EN DATA BL VDD VSS
X0 a_186_658# a_57_128# VDD VDD sky130_fd_pr__pfet_01v8 ad=1.08 pd=8.54 as=1.08 ps=8.54 w=4 l=0.15
X1 BL a_291_609# a_186_658# VDD sky130_fd_pr__pfet_01v8 ad=1.08 pd=8.54 as=1.08 ps=8.54 w=4 l=0.15
X2 a_57_128# EN VSS VSS sky130_fd_pr__nfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
X3 a_291_609# DATA VSS VSS sky130_fd_pr__nfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
X4 a_57_128# EN VDD VDD sky130_fd_pr__pfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
X5 a_186_128# EN VSS VSS sky130_fd_pr__nfet_01v8 ad=1.08 pd=8.54 as=1.08 ps=8.54 w=4 l=0.15
X6 BL a_291_609# a_186_128# VSS sky130_fd_pr__nfet_01v8 ad=1.08 pd=8.54 as=1.08 ps=8.54 w=4 l=0.15
X7 a_291_609# DATA VDD VDD sky130_fd_pr__pfet_01v8 ad=0.135 pd=1.54 as=0.135 ps=1.54 w=0.5 l=0.15
.ends bl_write_driver

** ============================================================
** RRAM Array 1 (3x5): 3 inputs x 5 hidden neurons
** ============================================================
** SL0=x1, SL1=x2, SL2=bias(always 1)
** BL0=h0(OR), BL1=h1(NAND via QB), BL2=h2(x1), BL3=h3(x2), BL4=h4(spare)
**
** Weight matrix W1 (LRS=4.5e-9, HRS=3.5e-9):
**        BL0  BL1  BL2  BL3  BL4
** SL0:   LRS  LRS  LRS  HRS  HRS   (x1)
** SL1:   LRS  LRS  HRS  LRS  HRS   (x2)
** SL2:   LRS  HRS  LRS  LRS  HRS   (bias)
** ============================================================
.subckt rram_array_1 BL0 BL1 BL2 BL3 BL4 WL0 WL1 WL2 WL3 WL4 SL0 SL1 SL2 GND
* Row 0 (SL0 = x1): w = [1,1,1,0,0]
XR00 BL0 n00 rram_lrs
XM00 n00 WL0 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR01 BL1 n01 rram_lrs
XM01 n01 WL1 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR02 BL2 n02 rram_lrs
XM02 n02 WL2 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR03 BL3 n03 rram_hrs
XM03 n03 WL3 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR04 BL4 n04 rram_hrs
XM04 n04 WL4 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
* Row 1 (SL1 = x2): w = [1,1,0,1,0]
XR10 BL0 n10 rram_lrs
XM10 n10 WL0 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR11 BL1 n11 rram_lrs
XM11 n11 WL1 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR12 BL2 n12 rram_hrs
XM12 n12 WL2 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR13 BL3 n13 rram_lrs
XM13 n13 WL3 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR14 BL4 n14 rram_hrs
XM14 n14 WL4 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
* Row 2 (SL2 = bias, always 1): w = [1,0,1,1,0]
XR20 BL0 n20 rram_lrs
XM20 n20 WL0 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR21 BL1 n21 rram_hrs
XM21 n21 WL1 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR22 BL2 n22 rram_lrs
XM22 n22 WL2 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR23 BL3 n23 rram_lrs
XM23 n23 WL3 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR24 BL4 n24 rram_hrs
XM24 n24 WL4 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
.ends rram_array_1

** ============================================================
** RRAM Array 2 (5x2): 5 hidden -> 2 output (redundant XOR)
** ============================================================
** SL0=h0(OR), SL1=h1(NAND), SL2=h2(x1), SL3=h3(x2), SL4=h4(spare)
** BL0=z1, BL1=z2 (both = XOR, same weights)
**
** Weight matrix W2:
**        BL0  BL1
** SL0:   LRS  LRS   (h0=OR)
** SL1:   LRS  LRS   (h1=NAND)
** SL2:   HRS  HRS   (h2=x1, unused)
** SL3:   HRS  HRS   (h3=x2, unused)
** SL4:   HRS  HRS   (h4=spare, unused)
** ============================================================
.subckt rram_array_2 BL0 BL1 WL0 WL1 SL0 SL1 SL2 SL3 SL4 GND
* Row 0 (SL0 = h0=OR): w = [1,1]
XR00 BL0 n00 rram_lrs
XM00 n00 WL0 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR01 BL1 n01 rram_lrs
XM01 n01 WL1 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
* Row 1 (SL1 = h1=NAND): w = [1,1]
XR10 BL0 n10 rram_lrs
XM10 n10 WL0 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR11 BL1 n11 rram_lrs
XM11 n11 WL1 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
* Row 2 (SL2 = h2=x1, unused): w = [0,0]
XR20 BL0 n20 rram_hrs
XM20 n20 WL0 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR21 BL1 n21 rram_hrs
XM21 n21 WL1 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
* Row 3 (SL3 = h3=x2, unused): w = [0,0]
XR30 BL0 n30 rram_hrs
XM30 n30 WL0 SL3 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR31 BL1 n31 rram_hrs
XM31 n31 WL1 SL3 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
* Row 4 (SL4 = h4=spare): w = [0,0]
XR40 BL0 n40 rram_hrs
XM40 n40 WL0 SL4 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
XR41 BL1 n41 rram_hrs
XM41 n41 WL1 SL4 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58
.ends rram_array_2

** ========================================================
** SIMULATION OPTIONS
** ========================================================
.options reltol=5e-3
.options abstol=1e-10
.options vntol=1e-5
.options gmin=1e-12
.options method=gear

** ========================================================
** POWER SUPPLIES
** ========================================================
VDD  vdd     0 DC 1.8
VWLP vwl_pwr 0 DC 3.3
** Separate VREF for each SA (eliminates coupling, enables per-SA tuning)
** VREF=1.20V: midpoint between ACTUAL 1-LRS (1.35-1.41V) and 2-LRS (0.99-1.06V)
** BL levels include SL pull-up reverse current effect
** Margin: 1-LRS side=150mV, 2-LRS side=140mV (both >> 50mV SA offset)
VREF   vref_a    0 DC 1.20
VREF10 vref_sa10 0 DC 1.20
VREF11 vref_sa11 0 DC 1.20
VREF12 vref_sa12 0 DC 1.20
VREF13 vref_sa13 0 DC 1.20
VREF14 vref_sa14 0 DC 1.20
VREF20 vref_sa20 0 DC 1.20
VREF21 vref_sa21 0 DC 1.20

** ========================================================
** DIGITAL CLOCK (200MHz)
** ========================================================
A_clk 0 clk_d clkmodel
.model clkmodel d_osc (cntl_array=[-1 1] freq_array=[200Meg 200Meg])

** ========================================================
** COMMAND STIMULUS
** ========================================================
* Reset: active-low, deassert at 50ns
V_rst rst_a 0 PWL(0 0 49n 0 50n 1.8)

* Start pulse at 100ns, 2000ns, 4000ns, 6000ns
V_start start_a 0 PWL(0 0
+   99n 0 100n 1.8 120n 1.8 121n 0
+   1999n 0 2000n 1.8 2020n 1.8 2021n 0
+   3999n 0 4000n 1.8 4020n 1.8 4021n 0
+   5999n 0 6000n 1.8 6020n 1.8 6021n 0)

* Input A: 0 (Tests 1,2), 1 (Tests 3,4)
* Inputs must stay HIGH for entire inference (encoder uses them directly)
V_ia ia_a 0 PWL(0 0 3999n 0 4000n 1.8)

* Input B: 0 (Test 1), 1 (Test 2), 0 (Test 3), 1 (Test 4)
V_ib ib_a 0 PWL(0 0 1999n 0 2000n 1.8 3999n 1.8 4000n 0 5999n 0 6000n 1.8)

** ========================================================
** ADC BRIDGES: Analog -> Digital
** ========================================================
.model adc1 adc_bridge (in_low=0.6 in_high=1.2 rise_delay=0.1n fall_delay=0.1n)

* Command inputs
A_adc_cmd [rst_a start_a ia_a ib_a]
+         [rst_d start_d ia_d ib_d]
+         adc1

* SA1 feedback: Q[4:0] and QB[4:0] (10 signals)
A_adc_sa1q [sa1_q4_a sa1_q3_a sa1_q2_a sa1_q1_a sa1_q0_a]
+          [sa1q4_d sa1q3_d sa1q2_d sa1q1_d sa1q0_d]
+          adc1

A_adc_sa1qb [sa1_qb4_a sa1_qb3_a sa1_qb2_a sa1_qb1_a sa1_qb0_a]
+           [sa1qb4_d sa1qb3_d sa1qb2_d sa1qb1_d sa1qb0_d]
+           adc1

* SA2 feedback: Q[1:0] (2 signals)
A_adc_sa2q [sa2_q1_a sa2_q0_a]
+          [sa2q1_d sa2q0_d]
+          adc1

** ========================================================
** d_cosim XOR CONTROLLER v2 (Verilator)
** ========================================================
* Inputs (17): clk, rst_n, start, input_a, input_b,
*              sa1_q[4:0], sa1_qb[4:0], sa2_q[1:0]
* Outputs (20): ready, result_valid, xor_result,
*               wl_en_1[4:0], wl_en_2[1:0],
*               phase, sae,
*               sl_data_1[2:0], sl_data_2[4:0]
A_ctrl [clk_d rst_d start_d ia_d ib_d
+       sa1q4_d sa1q3_d sa1q2_d sa1q1_d sa1q0_d
+       sa1qb4_d sa1qb3_d sa1qb2_d sa1qb1_d sa1qb0_d
+       sa2q1_d sa2q0_d]
+      [rdy_d rv_d xr_d
+       wl1_4_d wl1_3_d wl1_2_d wl1_1_d wl1_0_d
+       wl2_1_d wl2_0_d
+       phase_d sae_d
+       sl1_2_d sl1_1_d sl1_0_d
+       sl2_4_d sl2_3_d sl2_2_d sl2_1_d sl2_0_d]
+      null cosim_xor_v2
.model cosim_xor_v2 d_cosim (simulation="./verilog/xor_v2_cosim_top.so" delay=1n)

** ========================================================
** DAC BRIDGES: Digital -> Analog
** ========================================================
.model dac1 dac_bridge (out_low=0 out_high=1.8 out_undef=0.9
+                       t_rise=0.5n t_fall=0.5n)

* Status signals
A_dac_status [rdy_d rv_d xr_d]
+            [rdy_a rv_a xr_a]
+            dac1

* WL enables for Array 1 (5 bits)
A_dac_wl1 [wl1_4_d wl1_3_d wl1_2_d wl1_1_d wl1_0_d]
+         [wl1_in4 wl1_in3 wl1_in2 wl1_in1 wl1_in0]
+         dac1

* WL enables for Array 2 (2 bits)
A_dac_wl2 [wl2_1_d wl2_0_d]
+         [wl2_in1 wl2_in0]
+         dac1

* Phase and SAE
A_dac_ctrl [phase_d sae_d]
+          [phase_a sae_a]
+          dac1

* SL data for Array 1 (3 bits)
A_dac_sl1 [sl1_2_d sl1_1_d sl1_0_d]
+         [sl1_en2 sl1_en1 sl1_en0]
+         dac1

* SL data for Array 2 (5 bits)
A_dac_sl2 [sl2_4_d sl2_3_d sl2_2_d sl2_1_d sl2_0_d]
+         [sl2_en4 sl2_en3 sl2_en2 sl2_en1 sl2_en0]
+         dac1

** ========================================================
** BL PRECHARGE CONTROL
** Array 1: precharge OFF during Phase 0 (wl_on AND NOT phase)
** Array 2: precharge OFF during Phase 1 (wl_on AND phase)
** ========================================================
A_or_wl1 [wl1_4_d wl1_3_d wl1_2_d wl1_1_d wl1_0_d] wl1_on_d d_or5_model
.model d_or5_model d_or (rise_delay=0.1n fall_delay=0.1n input_load=1e-15)

A_inv_phase phase_d nphase_d d_inv_model
.model d_inv_model d_inverter (rise_delay=0.1n fall_delay=0.1n input_load=1e-15)

* Array 1 precharge release = wl1_on AND NOT phase
A_prech1_gate [wl1_on_d nphase_d] prech1_d d_and_model
.model d_and_model d_and (rise_delay=0.1n fall_delay=0.1n input_load=1e-15)
A_dac_prech1 [prech1_d] [prech1_a] dac1

* Array 2 precharge release = wl2_on AND phase
A_or_wl2 [wl2_1_d wl2_0_d] wl2_on_d d_or2_model
.model d_or2_model d_or (rise_delay=0.1n fall_delay=0.1n input_load=1e-15)
A_prech2_gate [wl2_on_d phase_d] prech2_d d_and2_model
.model d_and2_model d_and (rise_delay=0.1n fall_delay=0.1n input_load=1e-15)
A_dac_prech2 [prech2_d] [prech2_a] dac1

** Per-array SAE gating (avoid supply noise from metastable SAs)
** SA1 only evaluates in Phase 0, SA2 only evaluates in Phase 1
A_sae1_gate [sae_d nphase_d] sae1_d d_and3_model
.model d_and3_model d_and (rise_delay=0.1n fall_delay=0.1n input_load=1e-15)
A_dac_sae1 [sae1_d] [sae1_a] dac1

A_sae2_gate [sae_d phase_d] sae2_d d_and4_model
.model d_and4_model d_and (rise_delay=0.1n fall_delay=0.1n input_load=1e-15)
A_dac_sae2 [sae2_d] [sae2_a] dac1

** ========================================================
** ANALOG SIGNAL CHAIN — ARRAY 1 (Layer 1: 3x5)
** ========================================================

** WL Drivers for Array 1 (5x)
x_wld1_0 wl1_in0 wl1_0 vdd vwl_pwr 0 wl_driver
x_wld1_1 wl1_in1 wl1_1 vdd vwl_pwr 0 wl_driver
x_wld1_2 wl1_in2 wl1_2 vdd vwl_pwr 0 wl_driver
x_wld1_3 wl1_in3 wl1_3 vdd vwl_pwr 0 wl_driver
x_wld1_4 wl1_in4 wl1_4 vdd vwl_pwr 0 wl_driver

** BL Precharge for Array 1 (5 BLs, PMOS, release during Phase 0)
XMP_pre1_0 a1_bl0 prech1_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_pre1_1 a1_bl1 prech1_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_pre1_2 a1_bl2 prech1_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_pre1_3 a1_bl3 prech1_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_pre1_4 a1_bl4 prech1_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58

** BL Parasitic Capacitance Array 1 (20pF: 200MHz clock, ~43ns discharge)
** R_eff≈10kΩ: 0 LRS→1.79V, 1 LRS→1.45V, 2 LRS→1.17V, VREF=1.31V
C_a1_bl0 a1_bl0 0 20p
C_a1_bl1 a1_bl1 0 20p
C_a1_bl2 a1_bl2 0 20p
C_a1_bl3 a1_bl3 0 20p
C_a1_bl4 a1_bl4 0 20p

** SL Ground Switches for Array 1 (3 rows)
XMN_sl1_0 a1_sl0 sl1_en0 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58
XMN_sl1_1 a1_sl1 sl1_en1 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58
XMN_sl1_2 a1_sl2 sl1_en2 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58

** SL Pull-up PMOS for Array 1 (prevent parasitic discharge through non-active rows)
** When sl_en=0 (row inactive): PMOS ON → SL=VDD → V_RRAM=BL-SL=0, no current
** When sl_en=1 (row active):   PMOS OFF → NFET grounds SL normally
XMP_slpu1_0 a1_sl0 sl1_en0 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_slpu1_1 a1_sl1 sl1_en1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_slpu1_2 a1_sl2 sl1_en2 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58

** BL Write Drivers for Array 1 (disabled: EN=0, DATA=0)
x_blw1_0 0 0 a1_bl0 vdd 0 bl_write_driver
x_blw1_1 0 0 a1_bl1 vdd 0 bl_write_driver
x_blw1_2 0 0 a1_bl2 vdd 0 bl_write_driver
x_blw1_3 0 0 a1_bl3 vdd 0 bl_write_driver
x_blw1_4 0 0 a1_bl4 vdd 0 bl_write_driver

** RRAM 3x5 Array 1
x_rram1 a1_bl0 a1_bl1 a1_bl2 a1_bl3 a1_bl4
+        wl1_0 wl1_1 wl1_2 wl1_3 wl1_4
+        a1_sl0 a1_sl1 a1_sl2 0 rram_array_1

** Sense Amplifiers for Array 1 (5x, single-ended: INP=BL, INN=VREF)
** SA polarity: INP > INN → Q=0; INP < INN → Q=1
** So: BL < VREF (threshold met) → Q=1 (correct for RTL)
** Using sae1_a: only active during Phase 0
x_sa1_0 sae1_a a1_bl0 vref_sa10 sa1_q0_a sa1_qb0_a vdd 0 sense_amp
x_sa1_1 sae1_a a1_bl1 vref_sa11 sa1_q1_a sa1_qb1_a vdd 0 sense_amp
x_sa1_2 sae1_a a1_bl2 vref_sa12 sa1_q2_a sa1_qb2_a vdd 0 sense_amp
x_sa1_3 sae1_a a1_bl3 vref_sa13 sa1_q3_a sa1_qb3_a vdd 0 sense_amp
x_sa1_4 sae1_a a1_bl4 vref_sa14 sa1_q4_a sa1_qb4_a vdd 0 sense_amp

** ========================================================
** ANALOG SIGNAL CHAIN — ARRAY 2 (Layer 2: 5x2)
** ========================================================

** WL Drivers for Array 2 (2x)
x_wld2_0 wl2_in0 wl2_0 vdd vwl_pwr 0 wl_driver
x_wld2_1 wl2_in1 wl2_1 vdd vwl_pwr 0 wl_driver

** BL Precharge for Array 2 (2 BLs, release during Phase 1)
XMP_pre2_0 a2_bl0 prech2_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_pre2_1 a2_bl1 prech2_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58

** BL Parasitic Capacitance Array 2 (20pF: same as Array 1)
C_a2_bl0 a2_bl0 0 20p
C_a2_bl1 a2_bl1 0 20p

** SL Ground Switches for Array 2 (5 rows)
XMN_sl2_0 a2_sl0 sl2_en0 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58
XMN_sl2_1 a2_sl1 sl2_en1 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58
XMN_sl2_2 a2_sl2 sl2_en2 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58
XMN_sl2_3 a2_sl3 sl2_en3 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58
XMN_sl2_4 a2_sl4 sl2_en4 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1
+ ad=2.9 as=2.9 pd=20.58 ps=20.58

** SL Pull-up PMOS for Array 2 (prevent parasitic discharge through non-active rows)
** When sl_en=0 (row inactive): PMOS ON → SL=VDD → V_RRAM=BL-SL=0, no current
** When sl_en=1 (row active):   PMOS OFF → NFET grounds SL normally
XMP_slpu2_0 a2_sl0 sl2_en0 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_slpu2_1 a2_sl1 sl2_en1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_slpu2_2 a2_sl2 sl2_en2 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_slpu2_3 a2_sl3 sl2_en3 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58
XMP_slpu2_4 a2_sl4 sl2_en4 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1
+ ad=0.58 as=0.58 pd=4.58 ps=4.58

** BL Write Drivers for Array 2 (disabled)
x_blw2_0 0 0 a2_bl0 vdd 0 bl_write_driver
x_blw2_1 0 0 a2_bl1 vdd 0 bl_write_driver

** RRAM 5x2 Array 2
x_rram2 a2_bl0 a2_bl1 wl2_0 wl2_1
+        a2_sl0 a2_sl1 a2_sl2 a2_sl3 a2_sl4 0 rram_array_2

** Sense Amplifiers for Array 2 (2x, single-ended: INP=BL, INN=VREF)
** Using sae2_a: only active during Phase 1
x_sa2_0 sae2_a a2_bl0 vref_sa20 sa2_q0_a sa2_qb0_a vdd 0 sense_amp
x_sa2_1 sae2_a a2_bl1 vref_sa21 sa2_q1_a sa2_qb1_a vdd 0 sense_amp

** ========================================================
** SIMULATION CONTROL
** ========================================================
.control
* pre_osdi not needed (using fixed resistors instead of OSDI RRAM model)
* pre_osdi /home/hsm/pdk_matched/share/pdk/sky130B/libs.tech/ngspice/sky130_fd_pr_reram__reram_module.osdi
save all
tran 1n 8000n

echo ""
echo "=============================================="
echo "XOR v2 Inference Mixed-Signal Co-Simulation"
echo "=============================================="
echo ""

* Test 1: A=0, B=0 -> expect XOR=0
echo "--- Test 1: A=0, B=0 -> expect XOR=0 ---"
meas tran rv1_t WHEN v(rv_a)=0.9 RISE=1
meas tran xr1 FIND v(xr_a) WHEN v(rv_a)=0.9 RISE=1

echo ""
* Test 2: A=0, B=1 -> expect XOR=1
echo "--- Test 2: A=0, B=1 -> expect XOR=1 ---"
meas tran rv2_t WHEN v(rv_a)=0.9 RISE=2
meas tran xr2 FIND v(xr_a) WHEN v(rv_a)=0.9 RISE=2

echo ""
* Test 3: A=1, B=0 -> expect XOR=1
echo "--- Test 3: A=1, B=0 -> expect XOR=1 ---"
meas tran rv3_t WHEN v(rv_a)=0.9 RISE=3
meas tran xr3 FIND v(xr_a) WHEN v(rv_a)=0.9 RISE=3

echo ""
* Test 4: A=1, B=1 -> expect XOR=0
echo "--- Test 4: A=1, B=1 -> expect XOR=0 ---"
meas tran rv4_t WHEN v(rv_a)=0.9 RISE=4
meas tran xr4 FIND v(xr_a) WHEN v(rv_a)=0.9 RISE=4

echo ""
echo "=============================================="

* Save CSV
wrdata xor_v2_cosim.csv
+ v(rdy_a) v(rv_a) v(xr_a) v(phase_a) v(sae_a) v(start_a)
+ v(a1_bl0) v(a1_bl1) v(a1_bl2) v(a1_bl3) v(a1_bl4)
+ v(sa1_q0_a) v(sa1_q1_a) v(sa1_q2_a) v(sa1_q3_a) v(sa1_q4_a)
+ v(sa1_qb0_a) v(sa1_qb1_a)
+ v(a2_bl0) v(a2_bl1)
+ v(sa2_q0_a) v(sa2_q1_a)
+ v(ia_a) v(ib_a)
+ v(prech1_a) v(prech2_a)
+ v(sae1_a) v(sae2_a)
+ v(vref_a)
+ v(a1_sl0) v(a1_sl1) v(a1_sl2)
+ v(a2_sl0) v(a2_sl1) v(a2_sl2) v(a2_sl3) v(a2_sl4)

.endc
.end
